datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN(C)C1=CC=C(C2C3[CH:20](C4=CC=C(N(C)C)C=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C[CH:10]=[N+:11]([O-:12])[O-:62]>>CN(C)C1=CC=C(C2C([CH:20](C3=CC=C(N(C)C)C=C3)[CH:10](C)[N+:11](=[O:12])[O-:62])[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 10,11=10,20;12=11,12;20,21=21"
"CC[O:92][C:61]([CH-:10]/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62].C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2>>CC[O:92][C:61]([CH:10]([CH:20]1[C:21]2=[C:22](C=CC=C2)[N:23](C)[C:32]2=[C:31]1C=CC=C2)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62] 10=20;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCS1.CC[O:72][P:61]([CH:10]=[C:11]([O-:12])[O:93]CC)(=[O:62])[O:82]CC>>CC[O:72][P:61]([CH:10]([C:11](=[O:12])[O:93]CC)[C:20]1([O-:21])CCSCC1)(=[O:62])[O:82]CC 10,11=10,20;12=11,12;20,21=21"
"C1CC[C:11](=[CH2:10])C1.CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH2:10][C+:11]2CCCC2)[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1 10,11=10,20;20,21=21"
"CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[C:11](C)=[CH2:10]>>CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C+:11](C)C)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"CCC[NH:10]CCC.N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>CCC[NH+:10](CCC)[CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33](C#N)[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12 10=20;20,21=21,22;22,23=23"
"CC12C3(C)C4(C)C5(C)C1(C)[Zr:11]23451678(C)([CH3:10])C2(C)C1(C)C6(C)C7(C)C28C.CCC[C:20](C)=[O:21]>>CC12C3(C)C4(C)C5(C)C1(C)[Zr+:11]23451678(C)C2(C)C1(C)C6(C)C7(C)C28C.CCC[C:20](C)([CH3:10])[O-:21] 10,11=10,20;20,21=21"
"C[C:11](C1CC1)=[CH2:10].C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1>>C[C+:11](C1CC1)[CH2:10][F:20].C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1 10,11=10,20;20,21=21"
"C1=CC=C([N:31]=[C:20]=[S:21])C=C1.C[N:14](C)[C:13]1=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]1>>C[N+:14](C)=[C:13]1[CH:12]=[CH:11][N:10]([C:20]([S-:21])=[N:31]C2=CC=CC=C2)[CH:61]=[CH:62]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"CC[Sn:63](CC)(CC)[CH2:62][CH2:11][H:10].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C>>CC[Sn:63](CC)(CC)[CH2:62][CH2+:11].CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N:63]2[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1>>CC1=CC(C)=C([N:63]2[C:62]([C:11]([C:10](C)(C3=CC=CC=C3)[CH:20]([C:21]3=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]3)[C:41]3=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]3)=[O:12])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.FC1=CC(F)=C([B-:11](C2=C(F)C=C(F)C=C2F)(C2=C(F)C=C(F)C=C2F)[H:10])C(F)=C1>>Br[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.FC1=CC(F)=C([B:11](C2=C(F)C=C(F)C=C2F)C2=C(F)C=C(F)C=C2F)C(F)=C1 10,11=10,20"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CO[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>CC[O:34][C:32]([C:21]([CH:20]([O:10][C:61]1=[CH:62][CH:63]=[C:64](OC)[CH:73]=[CH:72]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"COC1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>COC1=CC=C([CH:10]([C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[N:33][C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)[OH:10].C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CC(C)[OH+:10][CH:20]([C:21]1=[C:22](C)[N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
